US04600715
3-ethoxycarbonyl-4-methoxymethyl-β-carboline-6-carboxylic acid;
3-ethoxycarbonyl-β-carboline-6-carboxylic acid, mp 313°-314° C. (decomposition; ethanol/ethyl acetate); and

reactant | 3-ethoxycarbonyl-β-carboline-6-carboxylic acid | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1)C(=O)O | C15H12N2O4
reactant | ethanol ethyl acetate | C(C)O.C(C)(=O)OCC
product | 3-ethoxycarbonyl-4-methoxymethyl-β-carboline-6-carboxylic acid | C(C)OC(=O)C=1N=CC=2NC3=CC=C(C=C3C2C1COC)C(=O)O | C17H16N2O5
